US06303783B1
Preparation of 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-4-oxo-3-thiazolidineacetic acid
A solution of tert-butyl 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-4-oxo-3-thiazolidineacetate (41.93 g, 76.1 mmol) in trifluoroacetic acid is stirred at room temperature for 3 hours, stirred at 35° C. for 1 hour, and concentrated in vacuc to obtain a yellow liquid. A solution of the yellow liquid in diethyl ether is cooled and filtered to obtain a solid. The solid is washed with diethyl ether and air-dried to give the title product as a white solid (31.6 g) which is identified by 1H and 13C NMR spectral analyses.

reactant | tert-butyl 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-4-oxo-3-thiazolidineacetate | 76.1 mmol, 41.93 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C1SCC(N1CC(=O)OC(C)(C)C)=O | C21H19ClF4N4O5S
solvent | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-{{2-chloro-5-[3,6-dihydro-3-methyl-2,6-dioxo-4-(trifluoromethyl)-1(2H)-pyrimidinyl]-4-fluorophenyl}imino}-4-oxo-3-thiazolidineacetic acid | 31.6 g | ClC1=C(C=C(C(=C1)F)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)N=C1SCC(N1CC(=O)O)=O | C17H11ClF4N4O5S
